US06589970B2
(6-Methoxy-naphthalen-2-yl)-carbamic acid tert-butyl ester (10.05 g, 36.8 mmol), prepared in the previous step, was suspended in 300 mL of glacial acetic acid plus 200 mL of 48% HBr and under nitrogen the mixture was refluxed for 6 h. The glacial acetic acid and the 48% HBr were removed under reduced pressure and the residue partitioned between methylene chloride and water. The aqueous layer was made basic by the addition of NaHCO3. A solid precipitated. The solid was collected by filtration and dried under reduced pressure to give 6-amino-naphthalen-2-ol (5.72 g, 98%) as a gray solid, MS m/z: 160 [M+H]+.

reactant | (6-Methoxy-naphthalen-2-yl)-carbamic acid tert-butyl ester | 36.8 mmol, 10.05 g | C(C)(C)(C)OC(NC1=CC2=CC=C(C=C2C=C1)OC)=O | C16H19NO3
reactant | HBr | 200 mL | Br | BrH
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 6-amino-naphthalen-2-ol | 5.72 g, 98% | NC=1C=C2C=CC(=CC2=CC1)O | C10H9NO
